US09340555B2
To a stirred, cooled (0° C.) solution of 7-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridine-2-carboxylic acid (120 mg, 0.27 mmol) in anhydrous DMF (10 ml) were added PyBOP (156 mg, 0.30 mmol) and N,N-diisopropylethylamine (70 mg, 0.54 mmol). The mixture was stirred at 0° C. for 5 minutes, followed by addition of N-(3-aminopropyl)piperidine (58 mg, 0.41 mmol). Stirring was continued at 0° C. for another 30 minutes. The mixture was poured into 100 ml of water with vigorous stirring. The precipitates were filtered, washed with water and dried to give 7-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]-N-(3-piperidin-1-ylpropyl)thieno[3,2-b]pyridine-2-carboxamide as beige solid. Yield: 151 mg, 98%. 1H NMR (600 MHz, DMSO-d6) δ ppm 9.21 (s, 1H) 8.94 (t, J=5.58 Hz, 1H) 8.56 (d, J=5.28 Hz, 1H) 8.50 (d, J=2.64 Hz, 1H) 8.22 (s, 1H) 7.98 (dd, J=7.63, 2.05 Hz, 1H) 7.57-7.60 (m, 2H) 7.23-7.27 (m, 2H) 7.11 (dd, J=11.30, 8.36 Hz, 1H) 6.80-6.83 (m, 1H) 6.71 (d, J=5.28 Hz, 1H) 3.30-3.35 (m, 2H) 2.31 (br. s., 6H) 2.28 (s, 3H) 1.69-1.75 (m, 2H) 1.47-1.52 (m, 4H) 1.38 (br. s., 2H)

reactant | 7-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]thieno[3,2-b]pyridine-2-carboxylic acid | 0.27 mmol, 120 mg | FC1=C(C=C(C=C1)C)NC(=O)NC1=CC=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)O)C=C1 | C22H16FN3O4S
reactant | PyBOP | 0.30 mmol, 156 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.54 mmol, 70 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N-(3-aminopropyl)piperidine | 0.41 mmol, 58 mg | NCCCN1CCCCC1 | C8H18N2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
product | 7-[4-({[(2-fluoro-5-methylphenyl)amino]carbonyl}amino)phenoxy]-N-(3-piperidin-1-ylpropyl)thieno[3,2-b]pyridine-2-carboxamide | FC1=C(C=C(C=C1)C)NC(=O)NC1=CC=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)NCCCN3CCCCC3)C=C1 | C30H32FN5O3S
